US06596751B2
Methyl 3-[4-(carboxymethoxy)phenyl]-2-(4-fluorobenzyloxy)propionate
A solution of methyl 3-[4-(t-butoxycarbonylmethoxy)phenyl]-2-(4-fluorobenzyloxy)propionate (2.8 g) in 4N hydrogen chloride/dioxane (50 ml) was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure to afford the title compound (2.42 g, Rf=0.10: thin layer chromatography on a silica gel plate using hexane:ethyl acetate=5:1 as the eluant).

reactant | methyl 3-[4-(t-butoxycarbonylmethoxy)phenyl]-2-(4-fluorobenzyloxy)propionate | 2.8 g | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)CC(C(=O)OC)OCC1=CC=C(C=C1)F | C23H27FO6
solvent | hydrogen chloride dioxane | 4N, 50 ml | Cl.O1CCOCC1
product | Methyl 3-[4-(carboxymethoxy)phenyl]-2-(4-fluorobenzyloxy)propionate | C(=O)(O)COC1=CC=C(C=C1)CC(C(=O)OC)OCC1=CC=C(C=C1)F | C19H19FO6
